US08440711B2
To a solution of 2-(3-aminophenyl)-2-fluoropropanoate (0.8 g, 4.1 mmol) in toluene (6 ml), H2SO4 (0.1 mL, 2.0 mmol) was added and, after stirring for 20 min, sodium thiocyanate (0.405 g, 5.0 mmol) was added under vigorous stirring. The mixture was refluxed for 18 h. After cooling at room temperature, water (20 ml) was added and the mixture was trasferred into a separator funnel; the two phases were debated and separated and the aqueous one extracted with toluene (3×10 mL); the collected organic extracts were dried over Na2SO4 and evaporated under vacuum to give a crude that, after pulping in n-hexane, afforded pure methyl 2-{3-[(aminocarbonothioyl)amino]phenyl}-2-fluoropropanoate as orange oil (0.84 g, yield 80%).

reactant | 2-(3-aminophenyl)-2-fluoropropanoate | 4.1 mmol, 0.8 g | NC=1C=C(C=CC1)C(C(=O)[O-])(C)F
reactant | H2SO4 | 2.0 mmol, 0.1 mL | OS(=O)(=O)O | H2O4S
reactant | sodium thiocyanate | 5.0 mmol, 0.405 g | [S-]C#N.[Na+]
reactant | water | 20 ml | O | H2O
reactant | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
solvent | n-hexane | CCCCCC | C6H14
product | methyl 2-{3-[(aminocarbonothioyl)amino]phenyl}-2-fluoropropanoate | 0.84 g, yield 80% | NC(=S)NC=1C=C(C=CC1)C(C(=O)OC)(C)F | C11H13FN2O2S
